US09282743B2
Preparation of 8-(4-Chloro-2,6-dimethyl-phenyl)-3-methoxy-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione (compound P2.2)
A degassed suspension of 5-methoxy-[1,2,5]triazepane hydrochloride salt (100 mg, 0.49 mmol) and triethylamine (0.33 ml, 207 mg, 2.05 mmol) in xylene (2.5 ml) was stirred under argon at 60° C. for 30 minutes in a microwave vial. After further addition of 2-(4-chloro-2,6-dimethyl-phenyl)-malonamide (120 mg, 0.50 mmol), the vial was capped and irradiated twice with microwaves at 180° C. for 10 minutes. The solid deposit on the vial wall was dissolved in dichloromethane, the solvent evaporated, the oily residue dissolved in 5N aqueous sodium hydroxide, the aqueous layer extracted with ethyl acetate (3×) and the combined organic layers discarded. The aqueous alkaline phase was acidified with cooling to pH 2-3 by addition of a 4N HCl solution and the product thoroughly extracted with dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Yield: 10 mg of 8-(4-chloro-2,6-dimethyl-phenyl)-3-methoxy-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione (compound P2.2) as a beige solid.

reactant | 5-methoxy-[1,2,5]triazepane hydrochloride salt | 0.49 mmol, 100 mg | Cl.CON1CCNNCC1
reactant | triethylamine | 2.05 mmol, 0.33 ml, 207 mg | C(C)N(CC)CC | C6H15N
reactant | 2-(4-chloro-2,6-dimethyl-phenyl)-malonamide | 0.50 mmol, 120 mg | ClC1=CC(=C(C(=C1)C)C(C(=O)N)C(=O)N)C | C11H13ClN2O2
solvent | xylene | 2.5 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-(4-Chloro-2,6-dimethyl-phenyl)-3-methoxy-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione | ClC1=CC(=C(C(=C1)C)C1C(N2N(CCN(CC2)OC)C1=O)=O)C | C16H20ClN3O3
